US06713474B2
A mixture of 4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexanone (1.00 g, 2.51 mmol), (3R)-(+)-3-aminopyrrolidine (0.65 g, 7.5 mmol), and acetic acid (0.43 mL, 7.5 mmol) in 1,2-dichloroethane (50 mL) was stirred at ambient temperature under an atmosphere of nitrogen for 45 minutes. Sodium triacetoxyborohydride (0.691 g, 3.26 mmol) was added and the mixture stirred at ambient temperature for 15 hours. Water (50 mL) and sodium bicarbonate (1.35 g, 16.1 mmol) were added and the mixture was stirred for 45 minutes. The reaction mixture was transferred to a separatory funnel and the organic layer was separated. The organic portion was dried over magnesium sulfate, filtered, and the solvent removed under reduced pressure to yield an oily brown solid. The compound was purified by flash chromatography on silica gel (1 L 10% MeOH in CH2Cl2, then 1 L 20% MeOH in CH2Cl2, followed by 500 mL 30% MeOH in CH2Cl2) to yield cis-5-(4-phenoxyphenyl)-7-{4-[(3R)tetrahydro-1H-3-pyrrolylamino]cyclohexyl}-7H-pyrrolo[2,3-d]pyrimidin-4-amine as a beige solid (0.285 g, 0.608 mmol): 1H NMR (d6 DMSO, 400 MHz): δ H 8.13(1H, s), 7.39-7.49(5H, m), 7.07-7.17(5H, m), 6.09(2H, bs), 4.65 (1H, m), 3.29-3.35 (3H, m), 2.63-2.67(2H, m), 1.94-2.51(8H, m), 1.46-1.80(4H, m); RP-HPLC (Delta Pak C18, 5,μm, 300 A, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 20 min, 1 mL/min) Rt 12.59 min.

reactant | 4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexanone | 2.51 mmol, 1.00 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCC(CC2)=O | C24H22N4O2
reactant | (3R)-(+)-3-aminopyrrolidine | 7.5 mmol, 0.65 g | N[C@H]1CNCC1 | C4H10N2
reactant | acetic acid | 7.5 mmol, 0.43 mL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 3.26 mmol, 0.691 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 16.1 mmol, 1.35 g | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
solvent | Water | 50 mL | O | H2O
product | cis-5-(4-phenoxyphenyl)-7-{4-[(3R)tetrahydro-1H-3-pyrrolylamino]cyclohexyl}-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.608 mmol, 0.285 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@@H](CC2)N[C@H]2CNCC2 | C28H32N6O
